US09359308B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-cyclopropylpropanamide (78 mg, 0.293 mmol), thieno[2,3-b]pyridin-3-amine (60 mg, 0.400 mmol), K2CO3 (70 mg, 0.507 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 3 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(thieno[2,3-b]pyridin-3-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide (33 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-cyclopropylpropanamide | 0.293 mmol, 78 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC1CC1)C#N | C11H12ClN5O
reactant | thieno[2,3-b]pyridin-3-amine | 0.400 mmol, 60 mg | S1C=C(C=2C1=NC=CC2)N | C7H6N2S
reactant | K2CO3 | 0.507 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(thieno[2,3-b]pyridin-3-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide | 33 mg | C(#N)C=1N=CC(=NC1NC1=CSC2=NC=CC=C21)N[C@@H](C(=O)N)CC2CC2 | C18H17N7OS
